US05221685
(13) Synthesis of 2-(3-methoxybenzoylamino)-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazoline (Compound 13)
In toluene (10 ml) were dissolved 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine (1.0 g) and triethylamine (0.4 ml), and 3-methoxybenzoyl chloride (0.7 g) was gradually added thereto and the mixture was stirred at room temperature for 3 hours.

reactant | 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine | 1.0 g | N=C1SC(C(N1)(C(F)(F)F)C(F)(F)F)=C(C(F)(F)F)F | C7H2F10N2S
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | 3-methoxybenzoyl chloride | 0.7 g | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-methoxybenzoylamino)-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazoline | COC=1C=C(C(=O)NC=2SC(C(N2)(C(F)(F)F)C(F)(F)F)=C(C(F)(F)F)F)C=CC1 | C15H8F10N2O2S
